US05714498
2-(4-(E)-(2-(5-Methylfuran-2-yl)ethenyl)-1,2,3,6-tetrahydropyridin-1-ylmethyl)benzimidazole
A solution of 4-[2-(5-methylfuran-2-yl)ethenyl]pyridine (1.0 g, 5.41 mmol) in anhydrous dimethylformarnide (20 ml) was treated with 2-chloromethylbenzimidazole (1.0 g, 5.95 mmol). The reaction was stirred at reflux for two hours. The solvent was evaporated and the residue redissolved in absolute ethanol (50 ml). Sodium borehydride (251 mg, 6.76 mmol) was added and the mixture stirred at reflux for 40 mins. The solvent was evaporated and the residue partitioned between dichloromethane and water. The organic phase was separated, dried (MgSO4) and evaporated. The residue was chromatographed on silica gel using 97:3:1 dichloromethane/methanol/ammonia as eluant to afford the title compound (500 mg, 30%) as a pale lemon solid, m.p. 191°-193° C.; (Found: C, 75.33; H, 6.32; N, 13.17. C20H21N3O requires C, 75.21; H, 6.63; N, 13.16); δH (DMSO-d6) 2.25-2.35 (5H, m, CH3 and tetrahydropyridinyl CH2), 2.66 (2H, t, J 5.7 Hz, tetrahydropyridinyl CH2), 3.14-3.20 (2H, m, tetrahydropyridinyl CH2), 3.82 (2H, s, NCH2Ar), 5.82-5.88 (1H, m, tetrahydropyridinyl CH), 6.06-6.10 (1H, m, furan 4-H), 6.22-6.30 (2H, m, CH=CH and furan 3-H), 6.58 (1H, d, J 16.1 Hz, CH=CH), 7.05-7.20 (2H, m, 5-H and 6-H), 7.38-7.60 (2H, m, 4-H and 7-H), and 12.29 (1H, s, NH); m/z (CI+, NH3) 320 (M+1)+.

reactant | 4-[2-(5-methylfuran-2-yl)ethenyl]pyridine | 5.41 mmol, 1.0 g | CC1=CC=C(O1)C=CC1=CC=NC=C1 | C12H11NO
reactant | 2-chloromethylbenzimidazole | 5.95 mmol, 1.0 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
solvent | dimethylformarnide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(4-(E)-(2-(5-Methylfuran-2-yl)ethenyl)-1,2,3,6-tetrahydropyridin-1-ylmethyl)benzimidazole | 500 mg, 30% | CC1=CC=C(O1)/C=C/C=1CCN(CC1)CC=1NC2=C(N1)C=CC=C2 | C20H21N3O
